US08278343B2
Preparation 8: 1-(4-Methoxy-benzoyl)-pyrrolidine-3,3-dicarboxylic acid ethyl ester (non racemic)
1-(4-Methoxy-benzoyl)-pyrrolidine-3,3-dicarboxylic acid diethyl ester (679.9 g, 1.95 mol) (see Preparation 7) in acetonitrile (1000 mL) was added to pH 7 buffer solution (10 L, 0.1M potassium phosphate) then Savinase 16T Type W enzyme (3200 g) was added and the resulting slurry was heated to 30° C. The pH of the reaction mixture was kept at 8.5 using a pH stat (TIM856 Titration Manager) and stirred for 6 days. Water (6 L) and ethyl acetate (12 L) was added to the reaction mixture then acidified to pH1 using 2M HCl aqueous solution (6 L). This was filtered through Arbocel™ and the organic layer was separated, washed with water (5 L) then extracted with 0.5M NaOH aqueous solution (7 L). The aqueous phase was acidified using 2M HCl aqueous solution (5 L) and extracted with ethyl acetate (6.5 L). The organic phase was concentrated under reduced pressure to afford the title compound as an orange oil (334.3 g, 53%). (92.9:7.1 ratio of isomers)

reactant | 1-(4-Methoxy-benzoyl)-pyrrolidine-3,3-dicarboxylic acid diethyl ester | 1.95 mol, 679.9 g | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)C(=O)OCC | C18H23NO6
reactant | Water | 6 L | O | H2O
reactant | ethyl acetate | 12 L | C(C)(=O)OCC | C4H8O2
reactant | HCl | 2M, 6 L | Cl | ClH
solvent | acetonitrile | 1000 mL | C(C)#N | C2H3N
product | 1-(4-Methoxy-benzoyl)-pyrrolidine-3,3-dicarboxylic acid ethyl ester | 334.3 g, 53% | C(C)OC(=O)C1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)C(=O)O | C16H19NO6
